US04436726
Starting from 5-(3-hexadecanoyloxyoctadecanoyl)aminovaleric acid (1.27 g) and L-threonine (950 mg), N-[5-(3-hexadecanoyloxyoctadecanoyl)aminovaleryl]-L-threonine (1.3 g) was obtained as crystals according to a similar manner to that of Example 6.

reactant | 5-(3-hexadecanoyloxyoctadecanoyl)aminovaleric acid | 1.27 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)NCCCCC(=O)O)CCCCCCCCCCCCCCC | C39H75NO5
reactant | L-threonine | 950 mg | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
product | N-[5-(3-hexadecanoyloxyoctadecanoyl)aminovaleryl]-L-threonine | 1.3 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)NCCCCC(=O)N[C@@H]([C@H](O)C)C(=O)O)CCCCCCCCCCCCCCC | C43H82N2O7
